US04036849
Following the general procedure of Example 10, p-(1H-tetrazol-1-yl)benzenethiol is treated with formalin and morpholine to give the 4-[p-(1H-tetrazol-1-yl)phenylthiomethyl]morpholine as white crystals from dichloromethane-hexane, m.p. 118.5°-121° C.

reactant | p-(1H-tetrazol-1-yl)benzenethiol | N1(N=NN=C1)C1=CC=C(C=C1)S | C7H6N4S
reactant | formalin | C=O | CH2O
reactant | morpholine | N1CCOCC1 | C4H9NO
solvent | dichloromethane hexane | ClCCl.CCCCCC
product | 4-[p-(1H-tetrazol-1-yl)phenylthiomethyl]morpholine | N1(N=NN=C1)C1=CC=C(C=C1)SCN1CCOCC1 | C12H15N5OS
